US04452851
To a suspension of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer) (11.6 g) and anisole (8.5 g) in dichloromethane (30 ml) was added trifluoroacetic acid (36.5 g) under ice-cooling and the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was dropwise added to isopropyl ether (200 ml) under stirring and the precipitates were collected by filtration. The precipitates were dissolved in ethyl acetate and saturated sodium bicarbonate solution and aqueous layer was separated. The aqueous layer was adjusted to pH 4.5 with 10% hydrochloric acid. After removing the solvent in reduced pressure, the solution was acidified to pH 2.5 with 10% hydrochloric acid under ice-cooling. The precipitates were filtered and dried to give 7-[2-(2-aminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylic acid (syn isomer) (6.1 g).

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylate | 11.6 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC | C29H27N5O6S3
reactant | anisole | 8.5 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 36.5 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | isopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylic acid | 6.1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)O)C1=O)=NOCC(=O)OC | C16H17N5O6S3
